US07109339B2
Tert-butyl 6-methylsulfanyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (7.2 g, 22.6 mmol), potassium hydroxide (6.3 g, 113 mmol), and iodomethane (32 g, 226 mmol) were combined with dry DME (110 mL) and stirred at rt for 10 h. The reaction was then filtered and the residue washed with chloroform. The filtrate was concentrated under reduced pressure to give tert-butyl 5-methyl-6-methylsulfanyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate as an oily brown residue (7.7 g, 105%). 1H NMR (CDCl3, 300 MHz) δ 7.32 (d, 1H, J=7.7 Hz), 7.12 (d, 1H, J=6.6 Hz), 7.03 (t, 1H, J=7.0 Hz), 4.61 (s, 2H), 4.08 (s, 3H), 3.85 (br s, 2H), 2.80 (br s, 2H), 2.49 (s, 3H), 1.49 (s, 9H) ppm

reactant | Tert-butyl 6-methylsulfanyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 22.6 mmol, 7.2 g | CSC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C17H22N2O2S
reactant | potassium hydroxide | 113 mmol, 6.3 g | [OH-].[K+]
reactant | iodomethane | 226 mmol, 32 g | IC | CH3I
solvent | DME | 110 mL | COCCOC | C4H10O2
product | tert-butyl 5-methyl-6-methylsulfanyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | CN1C2=C(C=3C=CC=C(C13)SC)CN(CC2)C(=O)OC(C)(C)C | C18H24N2O2S
